Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Demerol / Shellfish
 
Attending: ___.
 
Chief Complaint:
Right infrascapular pain and a right Horner's
 
Major Surgical or Invasive Procedure:
Lumbar puncture under fluroscopic guidance

 
History of Present Illness:
Ms. ___ is a ___ right-handed woman with a history of 
PMR and CLL who presents with right scapular pain, vague right 
arm sensory changes, and a right sided Horner syndrome. She 
noticed pain over her right scapula about 4 days ago - it's a 
sharp pain located just lateral to the medial inferior border of
the right scapula, without radiation, worsened with turning her 
head to the right. No relief with ibuprofen, some relief with 
Oxycodone. She went to see her rheumatologist, who felt it was 
not related to her PMR. She came to the ED today because the 
pain was too intense to bear. It is relieved with narcotics.

She also over the same time period began noticing sensory 
changes over her medial forearm and ulnar portion of her hand. 
She has difficulty describing it, saying it's not truly numb, 
but feels strange when she touches that area. She also complains 
of weakness in her right hand, noticeable when she tries to type 
or open jars.

Finally, yesterday her daughter noticed that her right pupil was 
smaller than her left, and felt that her right eyelid was 
droopier than usual. The patient herself did not notice this. 
It's unclear when this truly started, as her daughter saw her 
for the first time in several days yesterday.
  
On neuro ROS, Ms. ___ denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Other than that mentioned 
above, she denies focal weakness, numbness, parasthesiae. No
bowel or bladder incontinence or retention. Denies difficulty 
with gait.

On general review of systems, she denies recent fever or chills. 
 No night sweats or recent weight loss or gain. Denies cough, 
shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
CLL
HTN
HLD
PMR
CAD s/p 3V CABG
TAH
CCY
LBP with h/o bilateral sciatica
Glaucoma
DJD of her cervical spine
h/o rotator cuff tear on the right
 
Social History:
___
Family History:
Mother had HTN.
 
Physical Exam:
Physical Exam: 
Vitals: T: 98.2 P: 68 R: 17 BP: 154/69 SaO2: 98%RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted. 

Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent.  Normal prosody.  There were no
paraphasic errors. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect. 
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: Pupils unequal, 2 to 1.5 OD and 3 to 2 OS in light; 3 to 1.5
OD and 5 to 2 OS in dark. VFF to confrontation. Funduscopic exam
revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: Subtle ptosis OD. EOMI without nystagmus.  Normal
saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted. 

  Delt Bic Tri WrE FFl FE IO ADM APB IP Quad Ham TA ___ 
L  5    ___   ___   5-  ___    5  5     5     5  
5 
R  5    ___   4+ ___   ___    5  5     5     5  
5 

-Sensory: Reports decreased sensation only when she touches
herself over medial forearm and ulnar portion of hand, not when
formally tested with light touch or pinprick. No other deficits
to cold sensation, vibratory sense, proprioception throughout. 
No
extinction to DSS. 

-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1 

Plantar response was flexor bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
Cardiology Report ECG Study Date of ___  1:56:28 ___ 
Sinus rhythm 
Possible biatrial abnormality 
Intraventricular conduction delay 
Right bundle branch block 
Consider inferior infarct - age undetermined 
Since previous tracing of ___, axis less leftward, and right 
bundle branch block is new 

CT chest with contrast ___
1. No mediastinal or lung mass. 
2. Scattered non-calcified sub-4-mm lung nodules. According to 
the 
___ guidelines, in a low-risk patient, no further 
followup is needed. If risk factors exist, recommend CT in 12 
months to assess stability. 
3. Moderate sized hiatal hernia. 

MRI C-spine ___
No evidence of fracture. Degenerative changes as detailed above, 

with degenerative disc disease and uncovertebral joint 
hypertrophy at C4-5 
producing mild-to-moderate narrowing of the bilateral neural 
foramen. 

MRA ___ ___
1. No acute intracranial pathology. Specifically, evidence for 
mass, 
infarction, or hemorrhage to explain the patient's symptoms. 
2. Normal MRA of the neck. No evidence of dissection on the fat 
suppressed 
axial images. 
3. Mild changes of chronic microvascular ischemic disease. 

CTA neck ___
Mild stenosis at the origin of the right vertebral artery, no 
evidence of vascular occlusion. Punctate atherosclerotic 
calcifications noted in the carotid bifurcations. Multilevel 
degenerative changes of the cervical spine as described above. 
The patient is status post CABG. 

MR of the brachial plexus ___ - normal 

Flexion/Extension views of the C-spine ___ - no subluxation 
noted

Hematology 
ANALYSIS W             BC RBC Polys Lymphs Monos 
___    01 0    02    80    20 

CHEMISTRY           TotProt Glucose 
___    43    64 

___ prior to discharge - potassium was 3.5
 

 
Brief Hospital Course:
Mrs ___ was admitted with a right Horner's syndrome and right 
infrascapular pain.  This is felt to be most likely secondary to 
a lower brachial plexopathy.  Extensive evaluation revealed no 
evidence of a brachial plexus or cervical spine / root mass, and 
her CSF showed no evidence of malignancy.  On two occasions she 
was noticed to have hypokalemia, and she will follow-up with her 
PCP ___ to have this investigated further. She has 
C4/C5 degenerative disc disease. Her bed-side lumbar puncture 
failed, and she had to have an X-ray guided (fluoroscopy) lumbar 
puncture.  She will follow up with Dr. ___ as an outpatient, 
and will have an EMG and NCV to further evaluate the brachial 
plexus.
 
Medications on Admission:
Prednisone 11 mg po daily
Simvastatin 40 mg po daily
Plavix 75 mg po daily
HCTZ 25 mg po bid
Metoprolol 50/100
ASA 81
Tums
Nexium 40 mg po daily
Timolol ophth 1 drop ___ daily
Xalatan ophth 1 drop ___ daily

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Prednisone 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
7. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO HS 
(at bedtime).  
8. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
12. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
13. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO QAM 
(once a day (in the morning)).  
14. Neurontin 300 mg Capsule Sig: One (1) Capsule PO twice a 
day.
Disp:*60 Capsule(s)* Refills:*2*
15. Percocet 2.5-325 mg Tablet Sig: ___ Tablets PO every ___ 
hours as needed for pain for 7 days.
Disp:*28 Tablet(s)* Refills:*0*
16. Outpatient Lab Work
Chem 7 and send the results to Dr ___. soft cervical collar
If you experience discomfort in your neck (C4-C5 degenerative 
disc disease), as soft cervical collar may help. In addition, a 
hard pillow may help you if you have neck pain. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right Horner's syndrome
Hypokalemia 
Degenerative disc disease at C4-C5 
Probable brachial plexopathy

 
Discharge Condition:
She still had a right Horner's syndrome, however, most of her 
proximal weakness had resolved. 

 
Discharge Instructions:
You have what is known as a right Horner's, the etiology of 
which at this point is unclear, and you have test results 
pending. If you experience a sudden aggravation or recurrence of 
any of your symptoms please go to your nearest emergency room. 
You have had blood tests that have demonstrated that your 
potassium has been low on two occasions, please get your 
potassium checked by your PCP. You will need to get an EMG test 
done as an outpatient. 
 
Followup Instructions:
___